US06699887B2
A solution containing 54 mg of [1-ethyl-5-(4-methoxyphenoxy)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanol and 28 μl of triethylsilane in 2 ml of trifluoroacetic acid was stirred at room temperature for 22 h. The mixture was concentrated and saturated sodium hydrogen carbonate (6 ml) was added. The mixture was extracted three times with 8 ml of dichloromethane. The combined extracts were dried over magnesium sulphate, filtered and evaporated. The residue was purified by flash chromatography on silica gel using ethyl acetate/petroleum ether (bp 40-60° C.) (1:4) for the elution to give 33 mg of 4-benzyl-1-ethyl-5-(4-methoxyphenoxy)-3-methyl-1H-pyrazole as a yellow oil. Mass spectrum (ES) m/z 323 [M+H]+, 364 [M+H+CH3CN]+. 1H NMR (DMSO-d6) 1.19 (t, 3H), 2.00 (s, 3H), 3.46 (s, 2H), 3.70 (s, 3H), 3.80 (q, 2H), 6.82-6.89 (m, 4H), 7.01 (d, 2H), 7.12 (t, 1H), 7.20 (t, 2H).

reactant | [1-ethyl-5-(4-methoxyphenoxy)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanol | 54 mg | C(C)N1N=C(C(=C1OC1=CC=C(C=C1)OC)C(O)C1=CC=CC=C1)C | C20H22N2O3
reactant | triethylsilane | 28 μl | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-benzyl-1-ethyl-5-(4-methoxyphenoxy)-3-methyl-1H-pyrazole | 33 mg | C(C1=CC=CC=C1)C=1C(=NN(C1OC1=CC=C(C=C1)OC)CC)C | C20H22N2O2
